* 98 MHz Common Base LNA S-parameter Simulation
.title MMBT5179 Common-Base LNA 98 MHz

* Ports:
* Input Port P1 (50 Ohm)
V1 in_gen 0 dc 0 ac 1 portnum 1 z0 50
Rin in_gen in 50

* Input Matching (50 Ohm to Emitter)
C1 in n_c1_2 100p
C2 n_c1_2 0 47p
L1 n_c1_2 emitter 39n

* Emitter RFC & Bias Resistor
L2 emitter n_l2_2 470n
R3 n_l2_2 0 200

* Base Bias & Multi-Decade VHF Bypass
VCC vcc 0 dc 5.0
R1 vcc base 3.9k
R2 base 0 3.3k
C3 base 0 100p
C4 base 0 1n
C5 base 0 100n

* Active Transistor MMBT5179 (C B E)
Q1 collector base emitter MMBT5179

* Collector Tuned Tank & Output Match (Merged LC Tank + L-Match)
L3 collector vcc 150n
C6 collector 0 6.8p
C7 collector out 10p

* Bias-Tee on Output
L4 out bt_dc 1u
C9 bt_dc 0 100p
C10 bt_dc 0 10n
Rbt bt_dc 0 100k

* Output Port P2 (50 Ohm Load)
V2 out_gen 0 dc 0 portnum 2 z0 50
Rout out_gen out 50

* MMBT5179 SPICE Model (Fairchild / ON Semi / NXP)
.model MMBT5179 NPN (IS=1.0E-14 BF=90 VAF=50 IKF=0.1 ISE=1.0E-14 NE=1.5 BR=2 VAR=10 IKR=0.01 ISC=0 NC=2 RB=10 RE=1 RC=5 CJE=1.2E-12 VJE=0.7 MJE=0.33 TF=0.09E-9 CJC=1.0E-12 VJC=0.5 MJC=0.33 TR=10E-9)

.control
op
echo "=== DC Operating Point ==="
print v(collector) v(base) v(emitter) i(VCC)

* S-Parameter Analysis from 70 MHz to 130 MHz
sp lin 61 70MEG 130MEG 1
echo "=== S-Parameters at 98 MHz ==="
print db(s_1_1) db(s_2_1) db(s_1_2) db(s_2_2)
quit
.endc
.end

